US08633182B2
Step 3. 4-Iodo-3,5,N-trimethyl-benzamide
4-Amino-3,5,N-trimethyl-benzamide (850 mg, 4.77 mmol) is suspended in hydrochloric acid (37%, 2 mL), stirred until completely dissolved then cooled to 0° C. Sodium nitrite (494 mg, 7.15 mmol) in water (0.5 mL) is added and the mixture stirred for 1 hour at 0° C. Potassium iodide (2.38 g, 14.31 mmol) in 1.5 mL water is added and the mixture stirred for 15 minutes. The mixture is diluted with dichloromethane then washed with 10% aqueous sodium thosulfate solution, dried and the solvent removed under vacuum. The residue is purified by flash chromatography (0-50% ethyl acetate in cyclohexane) to give the title compound. (Yield 850 mg).

reactant | 4-Amino-3,5,N-trimethyl-benzamide | 4.77 mmol, 850 mg | NC1=C(C=C(C(=O)NC)C=C1C)C | C10H14N2O
reactant | Sodium nitrite | 7.15 mmol, 494 mg | N(=O)[O-].[Na+]
reactant | Potassium iodide | 14.31 mmol, 2.38 g | [I-].[K+]
solvent | hydrochloric acid | 2 mL | Cl | ClH
solvent | water | 0.5 mL | O | H2O
solvent | water | 1.5 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Iodo-3,5,N-trimethyl-benzamide | IC1=C(C=C(C(=O)NC)C=C1C)C | C10H12INO
